US04363865
N-(p-Nitrophenoxymethyl)phthalimide
N-(Chloromethyl)phthalimide (4.2 g) and the yellow dye, p-nitrophenol (3.0 g) were dissolved sequentially in 100 ml of dimethylformamide (DMF). Sodium hydride (2.0 g of a 50% oil dispersion) was added and the solution stirred for three days at room temperature. The mixture was diluted with 500 ml 1% aqueous acetic acid to precipitate out the desired product: 5.6 g, m.p. 145°-148° C.

reactant | N-(Chloromethyl)phthalimide | 4.2 g | ClCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6ClNO2
reactant | p-nitrophenol | 3.0 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | Sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | N-(p-Nitrophenoxymethyl)phthalimide | [N+](=O)([O-])C1=CC=C(OCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C15H10N2O5
